US07612114B2
6-{2-{Ethyl{4-[2-(2,2,6,6-tetramethylpiperidin-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 2-bromo-1-(2,2,6,6-tetramethylpiperidin-1-yl)ethanone (26 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (8.6 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-bromo-1-(2,2,6,6-tetramethylpiperidin-1-yl)ethanone | 26 mg | BrCC(=O)N1C(CCCC1(C)C)(C)C | C11H20BrNO
product | 6-{2-{Ethyl{4-[2-(2,2,6,6-tetramethylpiperidin-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 8.6 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN1C(CCCC1(C)C)(C)C | C37H50N2O3
